US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
A mixture of 6-(3-chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.10 g, 0.25 mmol), p-tolylboronic acid (0.13 g, 0.98 mmol), copper (II) acetate (67 mg, 0.37 mmol), activated molecular sieves type 4A (1 g), and pyridine (40 mg, 0.50 mmol) in dichloromethane (12 mL) was stirred at room temperature overnight. The reaction mixture was treated with a mixture of aqueous NH4OH (1 mL, 1M) and methanol (3 mL). After stirring at room temperature for 15 minutes, the slurry was filtered, and the filtrate concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a gradient of 0 to 15% of methanol in chloroform. Collection and concentration of appropriate fractions provided the title compound.

reactant | 6-(3-chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.25 mmol, 0.10 g | ClC=1C=C(CN2C(C3=C(C(NC(=C3CC2)C(=O)N(C)C)=O)OC)=O)C=CC1F | C19H19ClFN3O4
reactant | p-tolylboronic acid | 0.98 mmol, 0.13 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | pyridine | 0.50 mmol, 40 mg | N1=CC=CC=C1 | C5H5N
reactant | NH4OH | 1M, 1 mL | [NH4+].[OH-]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 0.37 mmol, 67 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methanol | 3 mL | CO | CH4O
product | 6-(3-Chloro-4-fluorobenzyl)-4-methoxy-N,N-dimethyl-2-(4-methyl-phenyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C2=CC=C(C=C2)C)=O)OC)=O)C=CC1F | C26H25ClFN3O4
